US07709468B2
Step E: 3-{4-[8-Cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazin-3-yl]pyrimidin-2-ylamino}-2,2-dimethylpropan-1-ol
A solution of 8-cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)imidazo[1,2-a]pyrazine (3.00 g, 7.08 mmol) and 3-amino-2,2-dimethylpropan-1-ol (TCI-US, 3.65 g, 35.4 mmol) in ACN (100 mL) was heated at about 85° C. for about 2 d. After cooling to ambient temperature, a precipitate formed, which was filtered off, washed with ACN, dried in vacuo and purified by silica gel chromatography with heptane/EtOAc (gradient 50-100% EtOAc, then isocratic 100% EtOAc). After concentration, the residue was three times re-dissolved in DCM and re-concentrated, resulting in a colorless foam, which was dried in a vacuum oven for about 16 h at about 55° C. and about 21 Torr to give 1.809 g (56%) of the title compound as a colorless solid: LC/MS (Table 1, Method g) Rt=3.01 min; MS m/z: 447.2 (M+H)+.

reactant | 8-cyclopropylmethyl-2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)imidazo[1,2-a]pyrazine | 7.08 mmol, 3.00 g | C1(CC1)CC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)S(=O)(=O)C | C21H18FN5O2S
reactant | 3-amino-2,2-dimethylpropan-1-ol | 35.4 mmol, 3.65 g | NCC(CO)(C)C | C5H13NO
solvent | ACN | 100 mL | C(C)#N | C2H3N
product | 3-{4-[8-Cyclopropylmethyl-2-(4-fluorophenyl)imidazo[1,2-a]pyrazin-3-yl]pyrimidin-2-ylamino}-2,2-dimethylpropan-1-ol | 1.809 g, 56% | C1(CC1)CC=1C=2N(C=CN1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)NCC(CO)(C)C | C25H27FN6O
